US08124629B2
To a solution of (4-methanesulfonyl-phenylethynyl)-trimethyl-silane (20.7 g , 82.0 mmol) in tetrahydrofuran (450 mL) was added tetrabutylammonium fluoride hydrate (8.80 g, 27.3 mmol). An immediate color change from yellow to red was observed. After 5 minutes, the reaction was complete, and the solvent was removed in vacuo. Water was added, and the resulting mixture was then extracted three times with ethyl acetate. The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered, and concentrated. The residue was suspended in dichloromethane, and the insoluble material was filtered off. The filtrate was concentrated to give the crude product. Flash chromatography (RediSep® Flash column, 230-400 mesh, 0-25% ethyl acetate in hexane) afforded 1-ethynyl-4-methanesulfonyl-benzene (10.7 g, 72% yield) as a yellow solid.

reactant | (4-methanesulfonyl-phenylethynyl)-trimethyl-silane | 82.0 mmol, 20.7 g | CS(=O)(=O)C1=CC=C(C=C1)C#C[Si](C)(C)C | C12H16O2SSi
reactant | tetrabutylammonium fluoride hydrate | 27.3 mmol, 8.80 g | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-ethynyl-4-methanesulfonyl-benzene | 10.7 g, 72% yield | C(#C)C1=CC=C(C=C1)S(=O)(=O)C | C9H8O2S
